US06544985B2
3-(5-Hydroxymethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester (0.38 g), dihydropyrane (2.01 mL) and p-toluenesulfonic acid hydrate (0.21 g) in AcOEt (25 mL) was stirred at 20° C. for 1 h. The solution was diluted AcOEt, washed with 5% NaHCO3 solution and with brine, dried and evaporated. The residual oil was purified by chromatography on silica gel using AcOEt/hexane (1:3) as eluent to give 3-[2-methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester (3.8 g) as a pale-yellow oil.

reactant | 3-(5-Hydroxymethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester | 0.38 g | COC(C1=CC(=CC=C1)C=1N=C(SC1CO)C)=O | C13H13NO3S
reactant | dihydropyrane | 2.01 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 0.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | AcOEt | 25 mL | CCOC(=O)C | C4H8O2
product | 3-[2-methyl-5-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester | 3.8 g | COC(C1=CC(=CC=C1)C=1N=C(SC1COC1OCCCC1)C)=O | C18H21NO4S
